US07855292B2
A. 4-(S)-Benzyl-3-[(2R,3R)-3-(4-chloro-phenyl)-3-hydroxy-2-methyl-propionyl]-oxazolidin-2-one
The title compound (1.32 g, 80%) was prepared from 4-(S)-benzyl-3-propionyl-oxazolidin-2-one and 4-chlorobenzaldehyde as in Example 55, Part B. 1H NMR (400 MHz, CDCl3): 7.37-7.26 (m, 7H), 7.23-7.17 (m, 2H), 5.12-5.08 (m, 1H), 4.69-4.62 (m, 1H), 4.22-4.13 (m, 2H), 4.03 (dq, J=7.0, 3.6, 1H), 3.25 (dd, J=13.4, 3.3, 1H), 3.20 (d, J=2.5, 1H), 2.79 (dd, J=13.4, 9.4, 1H), 1.18 (d, J=7.0, 3H).

reactant | 4-(S)-benzyl-3-propionyl-oxazolidin-2-one | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(CC)=O | C13H15NO3
reactant | 4-chlorobenzaldehyde | ClC1=CC=C(C=O)C=C1 | C7H5ClO
product | 4-(S)-Benzyl-3-[(2R,3R)-3-(4-chloro-phenyl)-3-hydroxy-2-methyl-propionyl]-oxazolidin-2-one | 1.32 g, 80% | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@@H]([C@@H](O)C1=CC=C(C=C1)Cl)C)=O | C20H20ClNO4
